*
*******************************************
*
*BAT85
*
*NXP Semiconductors
*
*Schottky barrier diode
*
*
*
*
*IFSM = 5A    @ tp = 10ms
*VF   = 800mV @ IF = 100mA
*
*
*
*
*
*
*
*
*
*
*Package pinning does not match Spice model pinning.
*Package: SOD68
*
*Package Pin 1: Cathode       
*Package Pin 2: Anode      
*
*
*
*
*Simulator: 
*
*******************************************
*#
.SUBCKT BAT85 1 2
*
* The resistor R1 does not reflect
* a physical device. Instead it
* improves modeling in the reverse
* mode of operation.
*
D1 1 2 BAT85
R1 1 2 5.416E+7 
* 
.MODEL BAT85 D
+ IS = 2.076E-7 
+ N = 1.023 
+ BV = 33 
+ IBV = 10E-6 
+ RS = 2.326 
+ CJO = 1.21E-11 
+ VJ = 0.1319 
+ M = 0.2904 
+ EG = 0.69 
+ XTI = 2 
.ENDS
*

